US08865896B2
3-(6-Amino-2-butoxy-8-methoxy-9H-purin-9-yl)propyl methanesulfonate
To a solution of 3-(6-amino-2-butoxy-8-methoxy-9H-purin-9-yl)propan-1-ol)(12.00 g, 40.63 mmol) in NMP (97.45 g) was added triethyamine (6.17 g, 90.65 mmol) and the mixture was cooled to 5° C. Thereto was dropped methanesulfonyl chloride (6.05 g, 52.82 mmol) and the mixture was stirred at 5° C. for 30 minutes, followed by adding a water (244.00 g). After stirring for 1 hour, the resulting crystal was filtered to give the subject compound (30.34 as a crude product). Purity: 98.39% (HPLC)

reactant | 3-(6-amino-2-butoxy-8-methoxy-9H-purin-9-yl)propan-1-ol | NC1=C2N=C(N(C2=NC(=N1)OCCCC)CCCO)OC | C13H21N5O3
reactant | triethyamine | 90.65 mmol, 6.17 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 52.82 mmol, 6.05 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 244.00 g | O | H2O
solvent | NMP | 97.45 g | CN1CCCC1=O | C5H9NO
product | 3-(6-Amino-2-butoxy-8-methoxy-9H-purin-9-yl)propyl methanesulfonate | CS(=O)(=O)OCCCN1C2=NC(=NC(=C2N=C1OC)N)OCCCC | C14H23N5O5S
